US08669374B2
1.1 2,3,3-Trimethyl-5-carboxy-3H-indole
A solution of 4-hydrazinobenzoic acid (10.0 g, 65.7 mmol), isopropylmethylketone (21.1 mL, 197 mmol) in acetic acid (35 mL) was heated under reflux in an oil bath for 20 h. After cooling to ambient temperature the solvent was evaporated off under reduced pressure and to it was added a saturated aqueous solution of NaHCO3 (50 mL) and washed with CH2Cl2 (3×40 mL). The pH of the aqueous solution was adjusted with 1 M aqueous HCl to ca. 2, and then extracted with CH2Cl2 (3×50 mL). The combined organic solution was then dried with Na2SO4, filtered and concentrated to dryness under reduced pressure to yield the desired product (10.7 g, 80%) as a brownish solid.

reactant | 4-hydrazinobenzoic acid | 65.7 mmol, 10.0 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | isopropylmethylketone | 197 mmol, 21.1 mL | C(C)(C)C(=O)C | C5H10O
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
product | 2,3,3-Trimethyl-5-carboxy-3H-indole | 10.7 g, 80% | CC1=NC2=CC=C(C=C2C1(C)C)C(=O)O | C12H13NO2
